US06022884
Step B: 2-(4-Chloro-2-methyl-phenoxy)-3-methyl-5-amino-pyridine
2- (4-chloro-2-methyl-phenoxy) -3-methyl-5-nitropyridine (5.8 g, 20.8 mmol) was dissolved in 95% ethanol (50 mL) and treated with 20% palladium hydroxide on carbon (350 mg). The reaction mixture was shaken in a hydrogen atmosphere (40 psi) for 1 hour. The solution was filtered through celite and concentrated in vacuo followed by chromatography on SiO2 using 1:1 ethyl acetate/hexanes as eluant. MS (m/z): 248/250 (M+H)+ ; C13H13N2OCl requires 248.7.

reactant | 2- (4-chloro-2-methyl-phenoxy) -3-methyl-5-nitropyridine | 20.8 mmol, 5.8 g | ClC1=CC(=C(OC2=NC=C(C=C2C)[N+](=O)[O-])C=C1)C | C13H11ClN2O3
reactant | hydrogen | [H][H] | H2
solvent | ethanol | 50 mL | C(C)O | C2H6O
catalyst | palladium hydroxide on carbon | 350 mg | [OH-].[OH-].[Pd+2]
product | 2-(4-Chloro-2-methyl-phenoxy)-3-methyl-5-amino-pyridine | ClC1=CC(=C(OC2=NC=C(C=C2C)N)C=C1)C | C13H13ClN2O
